US08404730B2
[3-(3,4-Dichloro-phenyl)-3-tetrazol-2-yl-propyl]-methyl-amine
To a solution of [3-(3,4-Dichloro-phenyl)-3-tetrazol-2-yl-propyl]-dimethyl-amine (2 mmol) in chloroform was added ethylchloroformate (>10 equiv.) and NaHCO3 (>20 equiv.) and this solution was refluxed for 3 h. After that, chloroform was evaporated and ethyl acetate was added and then this organic layer was washed with water 3 times. It was dried over MgSO4, filtered, evaporated and the filtrate was concentrated at reduced pressure. The residue was dissolved in ethanol and potassium hydroxide (>20 equiv.) dissolved in water was added and refluxed for 3 days. After that, ethyl acetate and sat. NaHCO3 were added and the organic layer was extracted. It was dried over MgSO4, filtered, evaporated and the filtrate was concentrated at reduced pressure. The residue was purified by column chromatography eluting with ethyl acetate and methanol: Yield 80%

reactant | [3-(3,4-Dichloro-phenyl)-3-tetrazol-2-yl-propyl]-dimethyl-amine | 2 mmol | ClC=1C=C(C=CC1Cl)C(CCN(C)C)N1N=CN=N1 | C12H15Cl2N5
reactant | ethylchloroformate | >10 equiv. | C(C)OC(=O)Cl | C3H5ClO2
reactant | NaHCO3 | >20 equiv. | C(=O)(O)[O-].[Na+]
reactant | potassium hydroxide | >20 equiv. | [OH-].[K+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [3-(3,4-Dichloro-phenyl)-3-tetrazol-2-yl-propyl]-methyl-amine | Yield 80% | ClC=1C=C(C=CC1Cl)C(CCNC)N1N=CN=N1 | C11H13Cl2N5
